US05217985
Under nitrogen, 60.0 g (0.30 mol) of N-BOC-γ-aminobutyric acid (BACHEM) is dissolved in 1200 mL of methylene chloride and treated with 30.5 g (0.15 mol) of dicyclohexylcarbodiimide (DCC). The reaction is allowed to stir for 2 hours and filtered under nitrogen. The anhydride solution is then added to a solution of 1.58 g (98.5 mmol) of anhydrous hydrazine in 100 mL of methylene chloride at 0° C. The reaction is allowed to warm to ambient temperature and stirred overnight. Concentration in vacuo gives the crude hydrazide which is purified either by recrystallization or by silica gel chromatography (Waters Prep-500A). A 21.7 g (100 mmol) sample of hydrazide is dissolved in 100 mL of methanol and treated with 12.9 g (100 mmol) of ethyl iminovalerate under nitrogen. The reaction is stirred at reflux overnight and concentrated in invacuo. Purification by silica gel chromatography (Waters Prep-500A) gives 5-butyl-3-(3-tertbutoxycarbonylaminopropyl-1H-1,2,4-triazole.

reactant | N-BOC-γ-aminobutyric acid | 0.30 mol, 60.0 g | C(=O)(OC(C)(C)C)NCCCC(=O)O | C9H17NO4
reactant | dicyclohexylcarbodiimide | 0.15 mol, 30.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrazine | 98.5 mmol, 1.58 g | NN | H4N2
reactant | ethyl iminovalerate | 100 mmol, 12.9 g | N=C(C(=O)OCC)CCC | C7H13NO2
solvent | methylene chloride | 1200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-tertbutoxycarbonylaminopropyl-1H-1,2,4-triazole | C(C)(C)(C)OC(=O)NCCCN1N=CN=C1 | C10H18N4O2
